US04382942
A mixture of 10 g of 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride, 100 ml of dimethylformamide, 14 g of sodium carbonate and 4.4 ml of chloromethyl cyclopropane was heated at 75° C. for 24 hours and was then cooled and diluted with water. The mixture was extracted with ethyl acetate and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-1-1 cyclohexane-chloroform-triethylamine mixture to obtain 9.25 g of 1-cyclopropylmethyl-3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine.

reactant | 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride | 10 g | Cl.COC=1C=C(C=CC1)C=1CNCCC1
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloromethyl cyclopropane | 4.4 ml | ClCC1CC1 | C4H7Cl
solvent | water | O | H2O
product | 1-cyclopropylmethyl-3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine | 9.25 g | C1(CC1)CN1CC(=CCC1)C1=CC(=CC=C1)OC | C16H21NO
